US05583232
B. (2S,3S,5S)-5-(N-(Valinyl)amino)-2-(N-((5-thiazolyl)methoxycarbonyl)amino)-1,6,diphenyl-3-hydroxyhexane Hydrochloride
To 135 mg (0.27 mmol) of (2S,3S,5S)-5-(N-(N-(t-butyloxycarbonyl)valinyl)amino)-2-(N-((5-thiazolyl)methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane was added 8 ml of 4M HCl in dioxane. The resulting mixture was stirred at ambient temperature for 1 h and concentrated in vacuo to provide the crude desired compound.

reactant | (2S,3S,5S)-5-(N-(N-(t-butyloxycarbonyl)valinyl)amino)-2-(N-((5-thiazolyl)methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane | 0.27 mmol, 135 mg | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)N[C@H](C[C@@H]([C@H](CC1=CC=CC=C1)NC(=O)OCC1=CN=CS1)O)CC1=CC=CC=C1 | C33H44N4O6S
reactant | HCl | 4M, 8 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (2S,3S,5S)-5-(N-(Valinyl)amino)-2-(N-((5-thiazolyl)methoxycarbonyl)amino)-1,6,diphenyl-3-hydroxyhexane Hydrochloride | Cl.N[C@@H](C(C)C)C(=O)N[C@H](C[C@@H]([C@H](CC1=CC=CC=C1)NC(=O)OCC1=CN=CS1)O)CC1=CC=CC=C1 | InChI=1S/C28H36N4O4S.ClH/c1-19(2)26(29)27(34)31-22(13-20-9-5-3-6-10-20)15-25(33)24(14-21-11-7-4-8-12-21)32-28(35)36-17-23-16-30-18-37-23;/h3-12,16,18-19,22,24-26,33H,13-15,17,29H2,1-2H3,(H,31,34)(H,32,35);1H/t22-,24-,25-,26-;/m0./s1
